simulator lang=spectre
global 0 vdd!

subckt NAND A B OUT
parameters Msize
    M2 (OUT B vdd! vdd!) pch w=220n l=180.00n m=2*Msize
    M5 (OUT A vdd! vdd!) pch w=220n l=180.00n m=2*Msize
    M0 (OUT A net1 net1) nch w=220n l=180.00n m=2*Msize
    M1 (net1 B 0 0) nch w=220n l=180.00n m=2*Msize
ends NAND

subckt Inverter IN OUT
parameters Msize
    M1 (OUT IN 0 0) nch w=220n l=180.00n m=Msize
    M5 (OUT IN vdd! vdd!) pch w=220n l=180.00n m=2*Msize
ends Inverter

subckt Bit_Retimer CLKC CLKT D Dret nDret
    I7 (Dret net9 nDret) NAND Msize=512
    I6 (net7 nDret Dret) NAND Msize=512
    I4 (net2 net11 net7) NAND Msize=32
    I5 (net6 net11 net9) NAND Msize=32
    I3 (net2 net15 net4) NAND Msize=256
    I2 (net14 net4 net2) NAND Msize=256
    I0 (D net12 net14) NAND Msize=32
    I1 (net3 net12 net15) NAND Msize=32
    Iinv5 (net8 net11) Inverter Msize=2
    Iinv4 (CLKT net8) Inverter Msize=2
    Iinv3 (net10 net12) Inverter Msize=2
    Iinv2 (CLKC net10) Inverter Msize=2
    Iinv1 (net2 net6) Inverter Msize=256
    Iinv0 (D net3) Inverter Msize=256
ends Bit_Retimer

I17 (CLKC CLKT D\<7\> Dret\<7\> nDret\<7\>) Bit_Retimer
I16 (CLKC CLKT D\<6\> Dret\<6\> nDret\<6\>) Bit_Retimer
I15 (CLKC CLKT D\<5\> Dret\<5\> nDret\<5\>) Bit_Retimer
I14 (CLKC CLKT D\<4\> Dret\<4\> nDret\<4\>) Bit_Retimer
I12 (CLKC CLKT D\<2\> Dret\<2\> nDret\<2\>) Bit_Retimer
I10 (CLKC CLKT D\<0\> Dret\<0\> nDret\<0\>) Bit_Retimer
I11 (CLKC CLKT D\<1\> Dret\<1\> nDret\<1\>) Bit_Retimer
I13 (CLKC CLKT D\<3\> Dret\<3\> nDret\<3\>) Bit_Retimer
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
